US07034039B2
To a suspension of (E)-3-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide hydrochloride (2.04 g, 5 mmol) in water (20 mL) was added 1N sodium hydroxide (20 mL). The obtained mixture was stirred at room temperature for 10 min. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from ethyl acetate to give (E)-3-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide (1.02 g, 85.0%) as crystals.

reactant | (E)-3-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide hydrochloride | 5 mmol, 2.04 g | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)/C=C/C(=O)N)=O)CC(C)C
reactant | sodium hydroxide | 1N, 20 mL | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | (E)-3-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide | 1.02 g, 85.0% | NCC=1N(C(C2=CC=C(C=C2C1OCCCC)/C=C/C(=O)N)=O)CC(C)C | C21H29N3O3
